US07855297B2
By the reaction and treatment in the same manner as in Example 12 using 7-fluoro-1,2,3,4-tetrahydronaphthalene-1-carboxylic acid (0.41 g) and (4-bromophenyl)[(4-dimethylaminophenyl)methyl]amine (0.64 g) as starting materials, N-(4-bromophenyl)-N-[(4-dimethylaminophenyl)methyl]-7-fluoro-1,2,3,4-tetrahydronaphthalene-1-carboxamide (0.26 g) was obtained.

reactant | 7-fluoro-1,2,3,4-tetrahydronaphthalene-1-carboxylic acid | 0.41 g | FC1=CC=C2CCCC(C2=C1)C(=O)O | C11H11FO2
reactant | (4-bromophenyl)[(4-dimethylaminophenyl)methyl]amine | 0.64 g | BrC1=CC=C(C=C1)NCC1=CC=C(C=C1)N(C)C | C15H17BrN2
product | N-(4-bromophenyl)-N-[(4-dimethylaminophenyl)methyl]-7-fluoro-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 0.26 g | BrC1=CC=C(C=C1)N(C(=O)C1CCCC2=CC=C(C=C12)F)CC1=CC=C(C=C1)N(C)C | C26H26BrFN2O
